US07612114B2
1-Benzyloxy-4-ethynyl-2-fluorobenzene
To a solution of 4-bromo-2-fluorophenol (2.0 g) in acetone (40 ml) were sequentially added potassium carbonate (2.0 g) and benzyl bromide (1.5 ml), and the solution was stirred for 2 hours at 50° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. A suspension of the resulting 1-benzyloxy-4-bromo-2-fluorobenzene (3.3 g), (trimethylsilyl)acetylene (1.5 g), dichlorobis(triphenylphosphine)palladium(II) (370 mg) and copper(I) iodide (50 mg) in triethylamine (30 ml) and pyridine (15 ml) was stirred for 1.5 hours at 80° C. under a nitrogen atmosphere. The insoluble material was removed by filtration, then the filtrate was neutralized with 5N hydrochloric acid. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. To the resulting residue were sequentially added methanol (40 ml) and an aqueous solution of 2N sodium hydroxide (5 ml), the solution was stirred for 45 minutes at 80° C., and then neutralized with 1N hydrochloric acid. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (2.2 g).

reactant | 4-bromo-2-fluorophenol | 2.0 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 1-Benzyloxy-4-ethynyl-2-fluorobenzene | 2.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#C)F | C15H11FO
